US05112988
A suspension of (2-methoxyphenyl)acetamide (0.9 g) in dry dichloromethane (3 cc) is treated with triethyloxonium tetrafluoroborate (1.14 g), and the solution obtained stirred for 20 hours at 25° C. After cooling to 0° C., a solution of 7,7-bis(3-fluorophenyl)perhydro-4-isoindolone hydrochloride (1.5 g) and triethylamine (1.4 cc) in dichloromethane (9 cc) is added to the reaction medium. The reaction mixture is stirred for 30 minutes at 25° C., then heated to reflux for 5 hours and finally stirred for a further 16 hours at 25° C. Saturated potassium carbonate solution (50 cc) is added, the mixture is stirred and filtered and the organic phase is washed with water (2×50 cc). After drying over magnesium sulphate, filtration and concentration to dryness under reduced pressure (2.7 kPa), the residue is chromatographed on a column of alumina (diameter 2.6 cm, height 24 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of 1,2 -dichloroethane and methanol (95:5 by volume) and collecting 15-cc fractions. Fractions 7 to 25 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-7,7-bis(3-fluorophenyl)-2-[1-imino-2-(2-methoxyphenyl)ethyl]perhydro-4-isoindolone (0.54 g) in the form of a pale yellow meringue-like product.

reactant | (2-methoxyphenyl)acetamide | 0.9 g | COC1=C(C=CC=C1)CC(=O)N | C9H11NO2
reactant | triethyloxonium tetrafluoroborate | 1.14 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | 7,7-bis(3-fluorophenyl)perhydro-4-isoindolone hydrochloride | 1.5 g | Cl.FC=1C=C(C=CC1)C1(CCC(C2CNCC12)=O)C1=CC(=CC=C1)F
reactant | potassium carbonate | 50 cc | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 3 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 9 cc | ClCCl | CH2Cl2
solvent | triethylamine | 1.4 cc | C(C)N(CC)CC | C6H15N
product | (3aRS,7aRS)-7,7-bis(3-fluorophenyl)-2-[1-imino-2-(2-methoxyphenyl)ethyl]perhydro-4-isoindolone | 0.54 g | FC=1C=C(C=CC1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=N)=O)C1=CC(=CC=C1)F | C29H28F2N2O2
